US05028604
A colorless oil of 1-[3-(5,7-dimethyl-1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioprolyl]pyrrolidine was prepared in the same manner as in Example 1, except that 3-(5,7-dimethyl-1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline prepared in Reference Example 25 and pyrrolidine were used instead of 3-(2-indanylacetyl)-L-thioproline and thiazolidine, respectively (yield: 60%).

reactant | 3-(5,7-dimethyl-1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioproline | CC1=C2CCC(CC2=CC(=C1)C)CC(=O)C1[C@H](NCS1)C(=O)O | C18H23NO3S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 3-(2-indanylacetyl)-L-thioproline | C1(CCC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)O | C15H17NO3S
reactant | thiazolidine | S1CNCC1 | C3H7NS
product | 1-[3-(5,7-dimethyl-1,2,3,4-tetrahydronaphthalen-2-ylacetyl)-L-thioprolyl]pyrrolidine | yield: 60% | CC1=C2CCC(CC2=CC(=C1)C)CC(=O)C1[C@H](NCS1)C(=O)N1CCCC1 | C22H30N2O2S
